US06599917B1
f) 3-(3-Phenyl-5-benzyl-6pyridazyl)ethynyl-3-quinuclidinol
A mixture of 484 mg of 3-phenyl-5-benzyl-6-pyridazyl trifluoromethane sulfonate, 223 mg of 3-ethynyl-3-quinuclidinol, 284 mg of tetrakis (triphenylphosphine)palladium(0), 47 mg of cuprous iodide, 513 μl of triethylamine and 5.0 ml of N,N-dimethylformamide was heated under stirring at 80° C. for 2 hours in a nitrogen atmosphere. The reaction solution was poured into aqueous dilute ammonia and the mixture was extracted with ethyl acetate. The organic phase was washed with brine and the solvent was removed. The residue was subjected to NH-silica gel (Fuji Silicia) column chromatography and eluted with hexane/ethyl acetate (1:1) and then with ethyl acetate/methanol (20:1) and then crystallized from hexane/ethyl acetate, to give 413 mg of the target compound.

reactant | 3-phenyl-5-benzyl-6-pyridazyl trifluoromethane sulfonate | 484 mg | FC(S(=O)(=O)OC1=C(C=C(N=N1)C1=CC=CC=C1)CC1=CC=CC=C1)(F)F | C18H13F3N2O3S
reactant | 3-ethynyl-3-quinuclidinol | 223 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 513 μl | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 3-(3-Phenyl-5-benzyl-6pyridazyl)ethynyl-3-quinuclidinol | 413 mg | C1(=CC=CC=C1)C=1N=NC(=C(C1)CC1=CC=CC=C1)C#CC1(CN2CCC1CC2)O | C26H25N3O
